US07262212B2
A mixture of (R)-2-bromo-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole (2.04 g, 7.78 mmol), 3-(4-trifluoromethylphenyl)-2-propenyl piperazine-1-carboxylate (2.69 g, 8.56 mmol) and N,N′-dimethylformamide (10 ml) was stirred at 50° C. for 20 hours. The reaction solution was allowed to return to room temperature, water was added, and the resultant solution was extracted with ethyl acetate (15 ml) twice. The organic phases were combined, washed with water three times, and dried over sodium sulfate. After filtration, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/2) to obtain 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-[3-(2-bromo-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]piperazin-1-carboxylate (3.77 g, 84%) as a yellow oil.

reactant | (R)-2-bromo-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole | 7.78 mmol, 2.04 g | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@]1(OC1)C | C7H8BrN3O3
reactant | 3-(4-trifluoromethylphenyl)-2-propenyl piperazine-1-carboxylate | 8.56 mmol, 2.69 g | N1(CCNCC1)C(=O)OCC=CC1=CC=C(C=C1)C(F)(F)F | C15H17F3N2O2
reactant | N,N′-dimethylformamide | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-[3-(2-bromo-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]piperazin-1-carboxylate | 3.77 g, 84% | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@@](CN1CCN(CC1)C(=O)OCC=CC1=CC=C(C=C1)C(F)(F)F)(C)O | C22H25BrF3N5O5
